### PR TITLE
chore: refactor `ContinuousLinearMap.isOpenMap` by separating it into sublemmas

### PR DESCRIPTION
**Pull request by yuanyi-350**
The open mapping theorem in mathlib proves A ⇒ C by first proving A ⇒ B and then B ⇒ C in one theorem. In my PR, I separated it into two theorems: A ⇒ B and B ⇒ C. And now B ⇒ C is more general, with weaker assumptions than A ⇒ C.

The [open mapping theorem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Operator/Banach.html#ContinuousLinearMap.isOpenMap) in mathlib need `f` to be surjective.

However, this can be weakened to the condition `h : ∃ (n : ℕ) (x : _), x ∈ interior (closure (f '' ball 0 n))` .  I need this stronger formulation to prove the closed range theorem c.f. *Rudin Functional Analysis Thm 4.13*

[zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/refactor.20.60ContinuousLinearMap.2EisOpenMap.60)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kckennylau** [comment]
You might want to use `∃ n : ℕ, (interior (closure (f '' ball 0 n))).Nonempty` instead of `∃ (n : ℕ) (x : _), x ∈ interior (closure (f '' ball 0 n))`.

**Comment by yuanyi-350** [comment]
> You might want to use `∃ n : ℕ, (interior (closure (f '' ball 0 n))).Nonempty` instead of `∃ (n : ℕ) (x : _), x ∈ interior (closure (f '' ball 0 n))`.

Modified, thanks!

**Comment by faenuccio** [comment]
Aren´t you basically saying that a linear function to a normed space is surjective iff it surjects onto an (open) ball?

**Comment by yuanyi-350** [comment]
> Aren´t you basically saying that a linear function to a normed space is surjective iff it surjects onto an (open) ball?

I have prove this in PR #29777

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 1]
```diff
@@ -248,6 +259,12 @@ protected theorem isOpenMap (surj : Surjective f) : IsOpenMap f := by
       _ = ε := mul_div_cancel₀ _ (ne_of_gt Cpos)
   exact Set.mem_image_of_mem _ (hε this)
 
+/-- The Banach open mapping theorem: a surjective bounded linear map between Banach spaces is
+open. -/
+protected theorem isOpenMap (surj : Surjective f) : IsOpenMap f :=
+  have h := noempty_interior_of_surj f surj
+  ContinuousLinearMap.isOpenMap' f h
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/Banach.lean]:
```suggestion
  f.isOpenMap' <| f.noempty_interior_of_surj surj
```

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 2]
```diff
@@ -225,11 +229,18 @@ theorem exists_preimage_norm_le (surj : Surjective f) :
...
 
-/-- The Banach open mapping theorem: a surjective bounded linear map between Banach spaces is
-open. -/
-protected theorem isOpenMap (surj : Surjective f) : IsOpenMap f := by
+/-- The Banach open mapping theorem: if a bounded linear map between Banach spaces is onto, then
+any point has a preimage with controlled norm. -/
+theorem exists_preimage_norm_le (surj : Surjective f) :
+    ∃ C > 0, ∀ y, ∃ x, f x = y ∧ ‖x‖ ≤ C * ‖y‖ :=
+  have h := noempty_interior_of_surj f surj
+  exists_preimage_norm_le' f h
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/Banach.lean]:
```suggestion
  f.exists_preimage_norm_le' <| f.noempty_interior_of_surj surj
```

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 3]
```diff
@@ -153,16 +146,27 @@ theorem exists_approx_preimage_norm_le (surj : Surjective f) :
...
+/-- First step of the proof of the Banach open mapping theorem (using completeness of `F`):
+by Baire's theorem, there exists a ball in `E` whose image closure has nonempty interior.
+Rescaling everything, it follows that any `y ∈ F` is arbitrarily well approached by
+images of elements of norm at most `C * ‖y‖`.
+For further use, we will only need such an element whose image
+is within distance `‖y‖/2` of `y`, to apply an iterative process. -/
+theorem exists_approx_preimage_norm_le (surj : Surjective f) :
+    ∃ C ≥ 0, ∀ y, ∃ x, dist (f x) y ≤ 1 / 2 * ‖y‖ ∧ ‖x‖ ≤ C * ‖y‖ :=
+  have h := noempty_interior_of_surj f surj
+  exists_approx_preimage_norm_le' f h
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/Banach.lean]:
```suggestion
  f.exists_approx_preimage_norm_le' <| f.noempty_interior_of_surj surj
```

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 4]
```diff
@@ -153,16 +146,26 @@ theorem exists_approx_preimage_norm_le (surj : Surjective f) :
         _ = (ε / 2)⁻¹ * ‖c‖ * 2 * ↑n * ‖y‖ := by ring
     exact ⟨σ' d⁻¹ • x, J, K⟩
 
+include σ' in
+/-- First step of the proof of the Banach open mapping theorem (using completeness of `F`):
+by Baire's theorem, there exists a ball in `E` whose image closure has nonempty interior.
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Operator/Banach.lean:155]: what do you mean by "image closure"? Also, please re-introduce the setting here (something like "given two vector spaces `E`, `F` and a map `f :E -> F`...

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 5]
```diff
@@ -153,16 +146,26 @@ theorem exists_approx_preimage_norm_le (surj : Surjective f) :
...
+Rescaling everything, it follows that any `y ∈ F` is arbitrarily well approached by
+images of elements of norm at most `C * ‖y‖`.
+For further use, we will only need such an element whose image
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Operator/Banach.lean]:
```suggestion
For later use, we will only need such an element whose image
```

**Review by faenuccio — COMMENTED** [review]
See our Zulip DM.

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 6]
```diff
@@ -77,26 +77,26 @@ variable [CompleteSpace F]
...
-include σ' in
-/-- First step of the proof of the Banach open mapping theorem (using completeness of `F`):
-by Baire's theorem, there exists a ball in `E` whose image closure has nonempty interior.
-Rescaling everything, it follows that any `y ∈ F` is arbitrarily well approached by
-images of elements of norm at most `C * ‖y‖`.
-For further use, we will only need such an element whose image
-is within distance `‖y‖/2` of `y`, to apply an iterative process. -/
-theorem exists_approx_preimage_norm_le (surj : Surjective f) :
-    ∃ C ≥ 0, ∀ y, ∃ x, dist (f x) y ≤ 1 / 2 * ‖y‖ ∧ ‖x‖ ≤ C * ‖y‖ := by
+omit [RingHomIsometric σ] in
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Operator/Banach.lean]: The fact that you often need to `omit` things seems an indication that the variable structure should be reorganized. Also, I've noticed that `[RingHomIsometric σ]` is only needed at 4/5 places. So my suggestion is to
1. Reshuffle things, possibly adding some `section` to avoid every `omit`.
1. Add `[RingHomIsometric σ]` as variable in the lemmas that need it, but not as global one.

**Review by faenuccio — COMMENTED** [review]
I've left a couple of comments, but I am now waiting for some answer concerning [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/on.20the.20definition.20of.20Submodule.2Emap/with/561855713) because your statement about an arbitrary ball of some natural radius being in the image could be generalised to arbitrary absorbent subsets using Absorbent.subset_range_iff_surjective. The problem is that this results currently requires surjectivity of \sigma, that you (rightly) don't need.

File: Mathlib/Analysis/Normed/Operator/Banach.lean (hunk 6 above)
Comment (yuanyi-350) [reply Mathlib/Analysis/Normed/Operator/Banach.lean]: I have removed all `[RingHomIsometric σ]` assumptions using the theorem `RingHomIsometric.inv`. (Note: One can infer `[RingHomIsometric σ]` from `[RingHomInvPair σ σ']` and `[RingHomIsometric σ']`.)
